US07517873B2
To a solution of 9.2 g (0.060 mole) of 3-amino-propanoic acid ethyl ester HCl salt and 5.9 g (0.060 mole) of (rac)-2-methyl-cyclopentanone in 300 mL of dichloromethane was added 10.8 g (0.132 mole) of sodium acetate and 19.1 g (0.090 sodium triacetoxyborohydride (19.1 g, 90 mmol). The mixture was stirred at ambient temperature overnight and then quenched by the addition of 100 mL of 10% sodium bicarbonate solution. The aqueous layer was extracted twice with 200 mL of dichloromethane, and the combined dichloromethane layers dried over anhydrous magnesium sulfate. The mixture was filtered, concentrated under reduced pressure, and distilled at 0.0015 mm Hg (bp 75 degrees), to give 9.6 g of (rac)-3-(3-methyl-cyclopentylamino)-propanoic acid ethyl ester.

reactant | 3-amino-propanoic acid ethyl ester HCl salt | 0.060 mole, 9.2 g | Cl.C(C)OC(CCN)=O
reactant | (rac)-2-methyl-cyclopentanone | 0.060 mole, 5.9 g | CC1C(CCC1)=O | C6H10O
reactant | sodium acetate | 0.132 mole, 10.8 g | C(C)(=O)[O-].[Na+]
reactant | sodium triacetoxyborohydride | 90 mmol, 19.1 g | C(C)(=O)O[BH-](OC(C)=O)OC(C)=O.[Na+]
solvent | dichloromethane | 300 mL | ClCCl | CH2Cl2
product | (rac)-3-(3-methyl-cyclopentylamino)-propanoic acid ethyl ester | 9.6 g | C(C)OC(CCNC1CC(CC1)C)=O | C11H21NO2
